US05006515
Ethyl 3-bromo-2-isoxazolin-5-ylmethyl(P-methyl)phosphinate (by procedure (a))
20 g (0.135 mol) of ethyl allyl(P-methyl)phosphinate are dissolved in 570 ml of ethyl acetate, 49.7 g (0.6 mol) of sodium bicarbonate in 115 ml of water are added and, while stirring vigorously, a solution of 40.6 g (0.2 mol) of dibromoformaldoxime in 115 ml of ethyl acetate is slowly added dropwise. The product is isolated in the form of an oil, 15 g from the ethyl acetate phase, and a further 19 g from the aqueous phase by extraction with dichloromethane at pH 2.

reactant | ethyl allyl(P-methyl)phosphinate | 0.135 mol, 20 g | C(C=C)P(OCC)(=O)C | C6H13O2P
reactant | sodium bicarbonate | 0.6 mol, 49.7 g | C([O-])(O)=O.[Na+]
reactant | dibromoformaldoxime | 0.2 mol, 40.6 g | BrC(=NO)Br | CHBr2NO
solvent | ethyl acetate | 570 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 115 ml | O | H2O
solvent | ethyl acetate | 115 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-bromo-2-isoxazolin-5-ylmethyl(P-methyl)phosphinate | BrC1=NOC(C1)CP(OCC)(=O)C | C7H13BrNO3P
